US05047404
2-(2-Propoxyphenyl)pteridin-4,6(3H,5H)-dione
A solution of chloral hydrate (1.74 g) in 50% aqueous methanol (10 ml) was added over 10 minutes to a stirred solution of 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one sulphate (1.89 g) in 50% aqueous methanol (60 ml) at 80° C. and the reaction mixture was stirred at 80° C. for 1.5 hours. The cooled reaction mixture was filtered to remove an orange brown solid which was discarded. On standing overnight the filtrate afforded a crude solid product (0.96 g) which was collected and washed with dilute aqueous potassium bicarbonate and water. The crude product together with another sample (0.20 g) similarly prepared was eluted from a silica column with chloroform. The combined fractions containing product were evaporated under reduced pressure to afford a solid (0.54 g) which was recrystallised from acetonitrile to afford the title compound, 0.39 g, m.p. 232°-233.5° C.

reactant | chloral hydrate | 1.74 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one sulphate | 1.89 g | S(=O)(=O)(O)O.NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCCC
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | 2-(2-Propoxyphenyl)pteridin-4,6(3H,5H)-dione | 0.96 g | C(CC)OC1=C(C=CC=C1)C1=NC=2N=CC(NC2C(N1)=O)=O | C15H14N4O3
